// Generated for: spectre
// Generated on: Mar 25 21:36:07 2016
// Design library name: 563_final
// Design cell name: y_logic_test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: 563_final
// Cell name: y_logic
// View name: schematic
subckt y_logic A_bar B C_bar E_bar F G Y
    N8 (Y A_bar net22 0) ami06N w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 \
        ps=6.6u pd=6.6u m=1 region=sat
    N12 (net26 E_bar 0 0) ami06N w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 \
        ps=6.6u pd=6.6u m=1 region=sat
    N11 (Y G net26 0) ami06N w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 ps=6.6u \
        pd=6.6u m=1 region=sat
    N9 (Y B net22 0) ami06N w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 ps=6.6u \
        pd=6.6u m=1 region=sat
    N13 (net26 F 0 0) ami06N w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 ps=6.6u \
        pd=6.6u m=1 region=sat
    N10 (net22 C_bar net26 0) ami06N w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 \
        ps=6.6u pd=6.6u m=1 region=sat
    P13 (net35 A_bar vdd! vdd!) ami06P w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 \
        ps=6.6u pd=6.6u m=1 region=sat
    P18 (net34 E_bar vdd! vdd!) ami06P w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 \
        ps=6.6u pd=6.6u m=1 region=sat
    P17 (Y G net21 vdd!) ami06P w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 \
        ps=6.6u pd=6.6u m=1 region=sat
    P15 (net21 C_bar vdd! vdd!) ami06P w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 \
        ps=6.6u pd=6.6u m=1 region=sat
    P19 (Y F net34 vdd!) ami06P w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 \
        ps=6.6u pd=6.6u m=1 region=sat
    P14 (net21 B net35 vdd!) ami06P w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 \
        ps=6.6u pd=6.6u m=1 region=sat
ends y_logic
// End of subcircuit definition.

// Library name: 563_final
// Cell name: y_logic_test
// View name: schematic
V13 (net02 0) vsource type=dc dc=2.0958
V0 (vdd! 0) vsource type=dc dc=5
V6 (net5 0) vsource type=pulse val0=0 val1=5 period=12.5u
V5 (net6 0) vsource type=pulse val0=0 val1=5 period=6.25u
V4 (net4 0) vsource type=pulse val0=0 val1=5 period=25u
V3 (net3 0) vsource type=pulse val0=0 val1=5 period=50u
V2 (net2 0) vsource type=pulse val0=0 val1=5 period=100u
V1 (net1 0) vsource type=pulse val0=0 val1=5 period=200u
I9 (net02 net02 net02 net02 net02 net02 net08) y_logic
I0 (net1 net2 net3 net4 net5 net6 net13) y_logic
C1 (net08 0) capacitor c=1p m=1
C0 (net13 0) capacitor c=1p m=1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=200u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
